US07399774B2
6-(3-Oxo-indan-5-yloxy)-nicotinamide
Using a method similar to Intermediate 1, using 6-hydroxy-1-indanone (J. Med. Chem. (1998), 41(7), 1068-1083) (2.07 g, 13.9 mmol), 6-chloronicotinamide (2.08 g, 13.3 mmol) and K2CO3 (2.75 g, 19.9 mmol) gives the title compound (1.36 g) as a yellow solid. Mass spectrum (ion spray): m/z=269 (M+1); 1HNMR (DMSO-d6): 8.57 (s, 1H), 8.26 (d, 1H), 8.02 (s, 1H), 7.63 (d, 1H), 7.46 (m, 2H), 7.33 (s, 1H), 7.14 (d, 1H), 3.10 (t, 2H), 2.68 (t, 2H).

reactant | 6-hydroxy-1-indanone | 13.9 mmol, 2.07 g | OC1=CC=C2CCC(C2=C1)=O | C9H8O2
reactant | 6-chloronicotinamide | 13.3 mmol, 2.08 g | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
reactant | K2CO3 | 19.9 mmol, 2.75 g | C(=O)([O-])[O-].[K+].[K+]
product | 6-(3-Oxo-indan-5-yloxy)-nicotinamide | 1.36 g | O=C1CCC2=CC=C(C=C12)OC1=NC=C(C(=O)N)C=C1 | C15H12N2O3
